US06245761B1
Preparation of 2-[(4-chlorophenoxy)methyl]-1-methyl-3-formyl-1H-indole (Example 236)
Under a nitrogen atmosphere a round bottom flask was charged with 0.63 ml of anhydrous N,N-dimethylformamide. The reaction vessel was placed in a −20° C. bath and then phosphorous oxychloride (0.187 ml, 0.310 g, 2.02 mmol) was carefully added. The resulting mixture was stirred in an ice bath for about twenty minutes and 2-[(4-chlorophenoxy)methyl]-1-methyl-1H-indole (0.50 g, 1.84 mmol) in 3.4 ml of N,N-dimethylformamide, was added. The resulting mixture was stirred at room temperature for about ninety minutes. The reaction mixture was then placed over an oil bath and heated to 55° C. and maintained at this temperature for about one hour. The reaction mixture was then permitted to cool to room temperature and was then poured into water. Sodium hydroxide (10 ml of a 5.0 N solution) was added and heated to reflux. The resulting mixture was cooled and the solids were then collected by filtration.

reactant | phosphorous oxychloride | 2.02 mmol, 0.187 ml, 0.310 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-[(4-chlorophenoxy)methyl]-1-methyl-1H-indole | 1.84 mmol, 0.50 g | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2)C)C=C1 | C16H14ClNO
reactant | water | O | H2O
reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | 3.4 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 0.63 ml | CN(C=O)C | C3H7NO
product | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-formyl-1H-indole | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2C=O)C)C=C1 | C17H14ClNO2
